US08557872B2
Step 4: Synthesis of 2-ethylamino-4-trifluoromethyl-benzaldehyde
2-Ethylamino-N-methoxy-N-methyl-4-trifluoromethyl-benzamide (95 mg, 0.343 mmol) was reacted with LAH in THF at −40° C. for 1.5 hrs as described above to yield title compound (22 mg, 29%) after column chromatography (hexane/ethylacetate=20/1).

reactant | 2-Ethylamino-N-methoxy-N-methyl-4-trifluoromethyl-benzamide | 0.343 mmol, 95 mg | C(C)NC1=C(C(=O)N(C)OC)C=CC(=C1)C(F)(F)F | C12H15F3N2O2
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | hexane ethylacetate | CCCCCC.C(C)OC(C)=O
solvent | THF | C1CCOC1 | C4H8O
product | 2-ethylamino-4-trifluoromethyl-benzaldehyde | 22 mg, 29% | C(C)NC1=C(C=O)C=CC(=C1)C(F)(F)F | C10H10F3NO
